US07601745B2
Synthesis of 4-(4-Ethoxycarbonyl-4,5-dihydro-thiazol-2-yl)-piperidine-1-carboxylic acid t-butyl ester
4-formyl-piperidine-1-carboxylic acid tert-butyl ester (1.0 eq, 13 mmol) was dissolved under inert conditions in 40 ml toluene. To this solution L-cystein ethylester hydrochloride (1.6 eq, 21 mmol) and triethylamine (1.6 eq, 21 mmol) were added. The mixture was refluxed for 14 h. The generated water was removed with a Dean & Stark trap.

reactant | 4-formyl-piperidine-1-carboxylic acid tert-butyl ester | 13 mmol, 1.0 eq | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
reactant | L-cystein ethylester hydrochloride | 21 mmol, 1.6 eq | Cl.C(C)OC([C@@H](N)CS)=O
reactant | triethylamine | 21 mmol, 1.6 eq | C(C)N(CC)CC | C6H15N
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Ethoxycarbonyl-4,5-dihydro-thiazol-2-yl)-piperidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1SCC(N1)C(=O)OCC | C16H26N2O4S
